US08748612B2
A solution of (R)-3-methylpyrrolidine (1.000 g, 8.226 mmol), 4-fluoro-1-nitro-2-(trifluoromethyl)benzene (1.72 g, 8.226 mmol) and Et3N (2.080 g, 2.865 mL, 20.56 mmol) in ACN was heated at 80° C. for 5 hours. The reaction was cooled to RT, quenched with water, the layers separated and the aqueous layer was extracted with DCM. The combined organic layer was washed with 1M HCl to remove the unreacted amine. The organic layer was dried over Na2SO4, filtered and concentrated to give (S)-3-methyl-1-(4-nitro-3-(trifluoromethyl)phenyl)pyrrolidine (1.97 g, 7.184 mmol) MS 275.0 m/z (MH+).

reactant | (R)-3-methylpyrrolidine | 8.226 mmol, 1.000 g | C[C@H]1CNCC1 | C5H11N
reactant | 4-fluoro-1-nitro-2-(trifluoromethyl)benzene | 8.226 mmol, 1.72 g | FC1=CC(=C(C=C1)[N+](=O)[O-])C(F)(F)F | C7H3F4NO2
reactant | Et3N | 20.56 mmol, 2.865 mL, 2.080 g | CCN(CC)CC | C6H15N
solvent | ACN | C(C)#N | C2H3N
product | (S)-3-methyl-1-(4-nitro-3-(trifluoromethyl)phenyl)pyrrolidine | 7.184 mmol, 1.97 g | C[C@@H]1CN(CC1)C1=CC(=C(C=C1)[N+](=O)[O-])C(F)(F)F | C12H13F3N2O2
